US04075215
Synthesis of 5-(o-methoxy-phenacyl)-thieno[3,2-c]pyridinium bromide (derivative No. 2)
Reaction of thieno[3,2-c]pyridine (13.5 g) with orthomethoxy-phenacyl bromide (21.3 g) according to the procedure of Example 1 gives white crystals (27.34 g) having a melting point (Koefler block) of 258°-260° C.

reactant | thieno[3,2-c]pyridine | 13.5 g | S1C=CC=2C=NC=CC21 | C7H5NS
reactant | orthomethoxy-phenacyl bromide | 21.3 g | COC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO2
product | 5-(o-methoxy-phenacyl)-thieno[3,2-c]pyridinium bromide | 27.34 g | [Br-].COC1=C(C(C[N+]2=CC3=C(C=C2)SC=C3)=O)C=CC=C1 | InChI=1S/C16H14NO2S.BrH/c1-19-15-5-3-2-4-13(15)14(18)11-17-8-6-16-12(10-17)7-9-20-16;/h2-10H,11H2,1H3;1H/q+1;/p-1
